US04410539
A solution of 6-methoxy-3-methylbenzo[b]thiophene-2-carboxylic acid (7.50 g.) in methanol (400 ml.) was saturated with hydrogen chloride gas and the solution was heated under reflux for 2 hours and then evaporated. The residue was dissolved in ethyl acetate and the solution was washed successively with water, sodium bicarbonate solution, water and dried (Na2SO4). Evaporation of the solvent gave a solid which was crystallized from methanol to give 6-methoxy-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester (5.59 g.), m.p. 118°-120° C.

reactant | 6-methoxy-3-methylbenzo[b]thiophene-2-carboxylic acid | 7.50 g | COC=1C=CC2=C(SC(=C2C)C(=O)O)C1 | C11H10O3S
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 400 ml | CO | CH4O
product | 6-methoxy-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester | 5.59 g | COC(=O)C1=C(C2=C(S1)C=C(C=C2)OC)C | C12H12O3S
